US05434288
Tetrasodium[2-[2-(1-tridecynyl)phenyl]ethenylidene]bisphosphonate
[2-[2-(1-Tridecynyl)phenyl]ethenylidene]bisphosphonic acid (0.102 g, 0.23 mmol) prepared according to Example 10 was dissolved in dry tetrahydrofuran (10 ml) and stirred while sodium ethoxide in ethanol (0,177M, 5.19 ml, 0.92 mmol) was added. After 20 minutes, the solvent was removed under reduced pressure to give a light solid. The solid was powdered and washed with dry ethanol, then dried under vacuum, 40.8 mg, 0.084 mmol, 36.5% yield; mp darkens above 233° C. under N2 ; 1H NMR (D2O) ∂ 0.89 (m, 3H), 1.21 to 1.57 (m, 16H), 1.67 (m, 2H), 2.55 (t, J=7.1 Hz, 2H), 7.35 (m, 2H), 7.51 (m, 1H), 7.90 (dd, J=42.4, 26.3 Hz, 1H), 8.19 (d, J=7.7 Hz, 1H).

reactant | [2-[2-(1-Tridecynyl)phenyl]ethenylidene]bisphosphonic acid | 0.23 mmol, 0.102 g | C(#CCCCCCCCCCCC)C1=C(C=CC=C1)C=C(P(O)(O)=O)P(O)(O)=O | C21H32O6P2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 0.92 mmol, 0,177M, 5.19 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Tetrasodium[2-[2-(1-tridecynyl)phenyl]ethenylidene]bisphosphonate | 36.5% yield | C(#CCCCCCCCCCCC)C1=C(C=CC=C1)C=C(P([O-])([O-])=O)P([O-])([O-])=O.[Na+].[Na+].[Na+].[Na+] | InChI=1S/C21H32O6P2.4Na/c1-2-3-4-5-6-7-8-9-10-11-12-15-19-16-13-14-17-20(19)18-21(28(22,23)24)29(25,26)27;;;;/h13-14,16-18H,2-11H2,1H3,(H2,22,23,24)(H2,25,26,27);;;;/q;4*+1/p-4
